US07371772B2
To a solution of 6-((4-bromo-2-formylphenyl)(4-methoxybenzyl)amino)hexanoic acid (32.0 g) and potassium carbonate (12.2 g) in DMF (300 ml) was added dropwise a solution of iodomethane (14.6 g) in DMF (100 ml) under nitrogen atmosphere at 0° C. After returning to room temperature, the reaction mixture was stirred for 2 hours, then water was added and the mixture was extracted with ethyl acetate. The organic layer was washed with water five times and with saturated brine once, and dried with magnesium sulfate. The solvent was distilled off under reduced pressure to give methyl 6-((4-bromo-2-formylphenyl)(4-methoxybenzyl)amino)hexanoate (30.5 g) as a brown oily material.

reactant | 6-((4-bromo-2-formylphenyl)(4-methoxybenzyl)amino)hexanoic acid | 32.0 g | BrC1=CC(=C(C=C1)N(CCCCCC(=O)O)CC1=CC=C(C=C1)OC)C=O | C21H24BrNO4
reactant | potassium carbonate | 12.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 14.6 g | IC | CH3I
reactant | water | O | H2O
solvent | DMF | 300 ml | CN(C)C=O | C3H7NO
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | methyl 6-((4-bromo-2-formylphenyl)(4-methoxybenzyl)amino)hexanoate | 30.5 g | BrC1=CC(=C(C=C1)N(CCCCCC(=O)OC)CC1=CC=C(C=C1)OC)C=O | C22H26BrNO4
